US07091228B2
Methyl 4-[2-(4-bromophenyl)-2-oxoethyl]tetrahydro-2H-pyran-4-carboxylate (820 mg, 2.40 mmol) and 4-nitrophenyl boronic acid (481 mg, 2.88 mmol) were combined in a dry flask under argon. Toluene (20 mL) and dioxane (5 mL) were added, and the resulting solution was degassed for 30 minutes by a flow of argon. The degassing was continued during the addition of saturated aqueous sodium carbonate (6 mL) and [1,1′-bis(diphenylphosphino)-ferrocene]dichloro palladium(II), 1:1 complex with dichloromethane (98 mg, 0.12 mmol). The resulting mixture was then heated at 85° C. for 16 h before it was cooled to rt. Water was added, and the aqueous layer was extracted twice with ethyl acetate. The combined organic phases were then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by flash chromatography (Biotage Flash 40) using 1:1 ethyl acetate/hexane to afford methyl 4-[2-(4′-nitro-1,1′-biphenyl-4-yl)-2-oxoethyl]tetrahydro-2H-pyran-4-carboxylate (730 mg, 79%). LC-MS ret. time 3.03; m/z 383.9 (MH+); 1H NMR (300 MHz, CDCl3) δ 1.65–1.73 (m, 2H), 2.17–2.21 (m, 2H), 3.37 (s, 2H), 3.68 (s, 3H), 3.71–3.78 (m, 4H), 7.70 (d, 2H), 7.77 (d, 2H), 8.02 (d, 2H), 8.31 (d, 2H).

reactant | Methyl 4-[2-(4-bromophenyl)-2-oxoethyl]tetrahydro-2H-pyran-4-carboxylate | 2.40 mmol, 820 mg | BrC1=CC=C(C=C1)C(CC1(CCOCC1)C(=O)OC)=O | C15H17BrO4
reactant | 4-nitrophenyl boronic acid | 2.88 mmol, 481 mg | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | sodium carbonate | 6 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | 0.12 mmol, 98 mg | ClCCl | CH2Cl2
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloro palladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Water | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | Toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 4-[2-(4′-nitro-1,1′-biphenyl-4-yl)-2-oxoethyl]tetrahydro-2H-pyran-4-carboxylate | 730 mg, 79% | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)C(CC1(CCOCC1)C(=O)OC)=O | C21H21NO6
